US08710086B2
Compound 8 was prepared according to General Method 3. A mixture of sodium 2-(4-(2-(dimethylamino)ethoxy)phenylamino)-2-methylpropanoate (107 mg, 0.37 mmol) and 2-(trifluoromethyl)-4-isothiocyanatobenzonitrile (107 mg, 0.44 mmol) was heated at 100° C. for 1 h then 82° C. for 12 h. The crude product was purified by silica gel chromatography using 100-200 Mesh silica gel (10% methanol in DCM) to obtain 30 mg of 4-(3-(4-(2-(dimethylamino)ethoxy)phenyl)-4,4-dimethyl-5-oxo-2-thioxoimidazolidin-1-yl)-2-(trifluoromethyl)benzonitrile. The product was converted its HCl salt by treating with ethanolic HCl, HPLC, Column: HYPERSIL GOLD C18, 4.6×250 mm, 5 μm, Mobile Phase A: 0.05% TFA, Mobile Phase B: ACN, Gradient: 10% to 90% B in 10 min, hold for 10 min. 90% to 10% B in 1 min, Flow Rate: 1 mL/min, Retention time: 9.568 min, M+1, 477.

reactant | sodium 2-(4-(2-(dimethylamino)ethoxy)phenylamino)-2-methylpropanoate | 0.37 mmol, 107 mg | CN(CCOC1=CC=C(C=C1)NC(C(=O)[O-])(C)C)C.[Na+]
reactant | 2-(trifluoromethyl)-4-isothiocyanatobenzonitrile | 0.44 mmol, 107 mg | FC(C1=C(C#N)C=CC(=C1)N=C=S)(F)F | C9H3F3N2S
product | 4-(3-(4-(2-(dimethylamino)ethoxy)phenyl)-4,4-dimethyl-5-oxo-2-thioxoimidazolidin-1-yl)-2-(trifluoromethyl)benzonitrile | 30 mg | CN(CCOC1=CC=C(C=C1)N1C(N(C(C1(C)C)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F)=S)C | C23H23F3N4O2S
